US07723345B2
NaH (60%, 120 mg, 3.0 mmol) was added to a solution of 2,2,2-trifluoro-1-phenyl-ethanol (350 mg, 2.03 mmol) in 5 ml of THF. The mixture was stirred for 20 minutes at room temperature. 4,6-Dichloro-pyrimidine (300 mg, 2.03 mmol) was added and then the reaction mixture was heated at 70° C. for 1 hour. After cooling, the THF was evaporated to provide a residue, which was dissolved in 15 ml of EtOAc, and then washed with water, and dried over sodium sulfate. The solvent was removed by rotovap to give 550 mg of 4-chloro-6-(2,2,2-trifluoro-1-phenyl-ethoxy)-pyrimidine, yield 95%.

reactant | NaH | 3.0 mmol, 120 mg | [H-].[Na+]
reactant | 2,2,2-trifluoro-1-phenyl-ethanol | 2.03 mmol, 350 mg | FC(C(O)C1=CC=CC=C1)(F)F | C8H7F3O
reactant | 4,6-Dichloro-pyrimidine | 2.03 mmol, 300 mg | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | EtOAc | 15 ml | CCOC(=O)C | C4H8O2
product | 4-chloro-6-(2,2,2-trifluoro-1-phenyl-ethoxy)-pyrimidine | 550 mg, yield 95% | ClC1=NC=NC(=C1)OC(C(F)(F)F)C1=CC=CC=C1 | C12H8ClF3N2O
